US04116956
To a solution of 1.4 parts of 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine in 30 parts by volume of chloroform is added with stirring 0.47 part by volume of acetic anhydride. The mixture is stirred for 1 hour and washed with a saturated aqueous solution of sodium bicarbonate and then with water. The chloroform layer is dried over sodium sulfate and the solvent is evaporated. Addition of methanol yields 2-(2-acetylhydrazino)-7-chloro-5-phenyl-3H-1,4-benzodiazepine as white crystals. Recrystallization from a mixture of chloroform and methanol yields powdery crystals melting at 202° C to 204° C (effervescence).

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-acetylhydrazino)-7-chloro-5-phenyl-3H-1,4-benzodiazepine | C(C)(=O)NNC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C17H15ClN4O
